US07432270B2
1-[4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-1-((S)-2-{[5-(1-hydroxy-ethyl)-pyrimidin-2-ylamino]-methyl}-piperidin-1-yl)-methanone
1-{2-[((S)-1-{1-[4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanoyl}-piperidin-2-ylmethyl)-amino]-pyrimidin-5-yl}-ethanone (0.2 g) was dissolved in methanol 20 ml) and sodium borohydride (0.4 g) added. The reaction was stirred overnight, water was added and stirring continued for 30 min. The reaction mixture was extracted with ethyl acetate (×3), the organic extracts combined, dried (MgSO4) and solvent removed at reduced pressure to give the title compound as a colourless foam.

reactant | 1-{2-[((S)-1-{1-[4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-methanoyl}-piperidin-2-ylmethyl)-amino]-pyrimidin-5-yl}-ethanone | 0.2 g | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)N1[C@@H](CCCC1)CNC1=NC=C(C=N1)C(C)=O | C23H25FN6O2
reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 1-[4-(4-Fluoro-phenyl)-1-methyl-1H-pyrazol-3-yl]-1-((S)-2-{[5-(1-hydroxy-ethyl)-pyrimidin-2-ylamino]-methyl}-piperidin-1-yl)-methanone | FC1=CC=C(C=C1)C=1C(=NN(C1)C)C(=O)N1[C@@H](CCCC1)CNC1=NC=C(C=N1)C(C)O | C23H27FN6O2
